**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 SMD Common Mode Line Filter
* Matchcode: 		WE-SL2
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.subckt 9260_744220_4.7m 1 2 3 4 PARAMS:
+  L1=4.0m
+  L2=0.02m
+  L3=1u
+  L4=1u
+  C1=4.192p
+  RS1=0.027meg
+  RS2=0.01meg
+  RS3=1
+  RS4=1
+  R2=0.999
+  L5=10n
+  R5=1100
+  C5=1p
+  Rdc=0.53
+  dL3=5.0n
+  dC3=3.7pF
+  DR3=900
L3  N013  N012  {L3}
R50  N013  N012  {Rs3}
C1  N500  N001  {C1}
R500  N500  4  {R2}
L7  4  N014  {L1}
R51  4  N014  {Rs1}
L5  N014  N013  {L2}
R52  N014  N013  {Rs2}
L4  N027  N026  {L3}
R53  N027  N026  {Rs3}
C2  N501  N025  {C1}
R501  N501  3  {R2}
L8  3  N028  {L1}
R54  3  N028  {Rs1}
L6  N028  N027  {L2}
R55  N028  N027  {Rs2}
L2  N026  N025  {L4}
R56  N026  N025  {Rs4}
L1  N012  N001  {L4}
R57  N012  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N023  2  {Rdc}  
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N025  N024  {L5}
R59  N025  N024  {R5}
C51  N025  N024  {C5}
L9  N004  N002  {dL3}  
C3  N004  N015  {dC3}  
L10  N005  N004  {dL3}  
L11  N023  N015  {dL3}  
L12  N015  N016  {dL3}  
C4  N005  N016  {dC3}  
L15  N006  N005  {dL3}  
L16  N016  N017  {dL3}  
C5  N006  N017  {dC3}  
L17  N007  N006  {dL3}  
L18  N017  N018  {dL3}  
C6  N007  N018  {dC3}  
L19  N008  N007  {dL3}  
L20  N018  N019  {dL3}  
R1  N003  N002  {dR3}  
R2  N024  N023  {dR3}  
C7  N008  N019  {dC3}  
L21  N009  N008  {dL3}  
L22  N019  N020  {dL3}  
L23  N010  N009  {dL3}  
L24  N020  N021  {dL3}  
C8  N009  N020  {dC3}  
L25  N011  N010  {dL3}  
L26  N021  N022  {dL3}  
C9  N010  N021  {dC3}  
L27  N003  N011  {dL3}  
L28  N022  N024  {dL3}  
C10  N011  N022  {dC3}  
R3  N004  N015  1000g        
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L13  L14  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
K14  L19  L20  1    
K15  L21  L22  1    
K16  L23  L24  1    
K17  L25  L26  1    
K18  L27  L28  1    
.ends 9260_744220_4.7m
******
.subckt 9260_744221_2m 1 2 3 4 PARAMS:
+  L1=1031.58u
+  L2=415.51u
+  L3=181.58u
+  L4=140.75u
+  C1=3.02p
+  RS1=6684.17
+  RS2=4684.17
+  RS3=4862.1
+  RS4=4684.17
+  R2=6.84
+  L5=11n
+  R5=700
+  C5=0.3p
+  Rdc=0.315
+  dL3=2.9n
+  dC3=3.1pF
+  DR3=325
L3  N013  N012  {L3}
R50  N013  N012  {Rs3}
C1  N500  N001  {C1}
R500  N500  4  {R2}
L7  4  N014  {L1}
R51  4  N014  {Rs1}
L5  N014  N013  {L2}
R52  N014  N013  {Rs2}
L4  N027  N026  {L3}
R53  N027  N026  {Rs3}
C2  N501  N025  {C1}
R501  N501  3  {R2}
L8  3  N028  {L1}
R54  3  N028  {Rs1}
L6  N028  N027  {L2}
R55  N028  N027  {Rs2}
L2  N026  N025  {L4}
R56  N026  N025  {Rs4}
L1  N012  N001  {L4}
R57  N012  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N023  2  {Rdc}  
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N025  N024  {L5}
R59  N025  N024  {R5}
C51  N025  N024  {C5}
L9  N004  N002  {dL3}  
C3  N004  N015  {dC3}  
L10  N005  N004  {dL3}  
L11  N023  N015  {dL3}  
L12  N015  N016  {dL3}  
C4  N005  N016  {dC3}  
L15  N006  N005  {dL3}  
L16  N016  N017  {dL3}  
C5  N006  N017  {dC3}  
L17  N007  N006  {dL3}  
L18  N017  N018  {dL3}  
C6  N007  N018  {dC3}  
L19  N008  N007  {dL3}  
L20  N018  N019  {dL3}  
R1  N003  N002  {dR3}  
R2  N024  N023  {dR3}  
C7  N008  N019  {dC3}  
L21  N009  N008  {dL3}  
L22  N019  N020  {dL3}  
L23  N010  N009  {dL3}  
L24  N020  N021  {dL3}  
C8  N009  N020  {dC3}  
L25  N011  N010  {dL3}  
L26  N021  N022  {dL3}  
C9  N010  N021  {dC3}  
L27  N003  N011  {dL3}  
L28  N022  N024  {dL3}  
C10  N011  N022  {dC3}  
R3  N004  N015  1000g        
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L13  L14  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
K14  L19  L20  1    
K15  L21  L22  1    
K16  L23  L24  1    
K17  L25  L26  1    
K18  L27  L28  1    
.ends 9260_744221_2m
******
.subckt 9260_744222_1m 1 2 3 4 PARAMS:
+  L1=903.92u
+  L2=150u
+  L3=31.34u
+  L4=80.58u
+  C1=2.11p
+  RS1=4851.44
+  RS2=5010.9
+  RS3=5838.5
+  RS4=2481.47
+  R2=0.278
+  L5=80n
+  R5=900
+  C5=1p
+  Rdc=0.228
+  dL3=2.6n
+  dC3=2.5pF
+  DR3=375
L3  N012  N011  {L3}
R50  N012  N011  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N013  {L1}
R51  4  N013  {Rs1}
L5  N013  N012  {L2}
R52  N013  N012  {Rs2}
L4  N025  N024  {L3}
R53  N025  N024  {Rs3}
C2  N501  N023  {C1}
R501  3  N501  {R2}
L8  3  N026  {L1}
R54  3  N026  {Rs1}
L6  N026  N025  {L2}
R55  N026  N025  {Rs2}
L2  N024  N023  {L4}
R56  N024  N023  {Rs4}
L1  N011  N001  {L4}
R57  N011  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N015  2  {Rdc}  
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N023  N022  {L5}
R59  N023  N022  {R5}
C51  N023  N022  {C5}
L9  N004  N002  {dL3}  
C3  N004  N014  {dC3}  
L10  N005  N004  {dL3}  
L11  N015  N014  {dL3}  
L12  N014  N016  {dL3}  
C4  N005  N016  {dC3}  
L15  N006  N005  {dL3}  
L16  N016  N017  {dL3}  
C5  N006  N017  {dC3}  
L17  N007  N006  {dL3}  
L18  N017  N018  {dL3}  
C6  N007  N018  {dC3}  
L19  N008  N007  {dL3}  
L20  N018  N019  {dL3}  
R1  N003  N002  {dR3}  
R2  N022  N015  {dR3}  
C7  N008  N019  {dC3}  
L21  N009  N008  {dL3}  
L22  N019  N020  {dL3}  
L23  N010  N009  {dL3}  
L24  N020  N021  {dL3}  
C8  N009  N020  {dC3}  
L25  N003  N010  {dL3}  
L26  N021  N022  {dL3}  
C9  N010  N021  {dC3}  
R3  N004  N014  1000g    
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L13  L14  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
K14  L19  L20  1    
K15  L21  L22  1    
K16  L23  L24  1    
K17  L25  L26  1    
.ends 9260_744222_1m
******
.subckt 9260_744223_0.5m 1 2 3 4 PARAMS:
+  L1=275.25u
+  L2=110.72u
+  L3=99.33u
+  L4=1u
+  C1=0.999p
+  RS1=1390.05
+  RS2=3069.35
+  RS3=2848.62
+  RS4=3191.56
+  R2=116.68
+  Rdc=0.12
+  dL3=3n
+  dC3=3.09pF
+  DR3=100
L3  N009  N008  {L3}
R50  N009  N008  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N010  {L1}
R51  4  N010  {Rs1}
L5  N010  N009  {L2}
R52  N010  N009  {Rs2}
L4  N019  N018  {L3}
R53  N019  N018  {Rs3}
C2  N501  N017  {C1}
R501  3  N501  {R2}
L8  3  N020  {L1}
R54  3  N020  {Rs1}
L6  N020  N019  {L2}
R55  N020  N019  {Rs2}
L2  N018  N017  {L4}
R56  N018  N017  {Rs4}
L1  N008  N001  {L4}
R57  N008  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N012  2  {Rdc}
L9  N003  N002  {dL3}
C3  N003  N011  {dC3}
L10  N004  N003  {dL3}
L11  N012  N011  {dL3}
L12  N011  N013  {dL3}
C4  N004  N013  {dC3}
L15  N005  N004  {dL3}
L16  N013  N014  {dL3}
C5  N005  N014  {dC3}
L17  N006  N005  {dL3}
L18  N014  N015  {dL3}
C6  N006  N015  {dC3}
L19  N007  N006  {dL3}
L20  N015  N016  {dL3}
R1  N001  N002  {dR3}
R2  N017  N012  {dR3}
C7  N007  N016  {dC3}
L21  N001  N007  {dL3}
L22  N016  N017  {dL3}
R3  N003  N011  1000g  
K2  L3  L4  1  
K3  L5  L6  1  
K4  L7  L8  1  
K1  L1  L2  1  
K10  L9  L11  1  
K11  L10  L12  1  
K12  L15  L16  1  
K13  L17  L18  1  
K14  L19  L20  1  
K15  L21  L22  1  
.ends 9260_744223_0.5m
******
.subckt 9260_744224_0.25m 1 2 3 4 PARAMS:
+  L1=57.16u
+  L2=95.94u
+  L3=37.44u
+  L4=4.53u
+  C1=1.1923p
+  RS1=901.29
+  RS2=2901.98
+  RS3=106.96
+  RS4=109.69
+  R2=0.923
+  L5=19n
+  R5=220
+  C5=1p
+  Rdc=0.13
+  dL3=3.4n
+  dC3=3.1pF
+  DR3=325
L3  N008  N007  {L3}
R50  N008  N007  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N009  {L1}
R51  4  N009  {Rs1}
L5  N009  N008  {L2}
R52  N009  N008  {Rs2}
L4  N017  N016  {L3}
R53  N017  N016  {Rs3}
C2  N501  N015  {C1}
R501  3  N501  {R2}
L8  3  N018  {L1}
R54  3  N018  {Rs1}
L6  N018  N017  {L2}
R55  N018  N017  {Rs2}
L2  N016  N015  {L4}
R56  N016  N015  {Rs4}
L1  N007  N001  {L4}
R57  N007  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N010  2  {Rdc}  
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N015  N014  {L5}
R59  N015  N014  {R5}
C51  N015  N014  {C5}
L9  N004  N002  {dL3}  
C3  N004  N011  {dC3}
R900  N004  N011  1000g    
L10  N005  N004  {dL3}  
L11  N010  N011  {dL3}  
L12  N011  N012  {dL3}  
C4  N005  N012  {dC3}  
L15  N006  N005  {dL3}  
L16  N012  N013  {dL3}  
C5  N006  N013  {dC3}  
L17  N003  N006  {dL3}  
L18  N013  N014  {dL3}  
R1  N003  N002  {dR3}  
R2  N014  N010  {dR3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L13  L14  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
.ends 9260_744224_0.25m
******
.subckt 9260_744225_40u 1 2 3 4 PARAMS:
+  L1=35.25u
+  L2=8.5u
+  L3=11.2u
+  L4=5.31u
+  C1=0.328p
+  RS1=1909.47
+  RS2=2460.94
+  RS3=2527.33
+  RS4=3068.24
+  R2=63.57
+  Rdc=0.25
+  dL3=2.9n
+  dC3=2.9pF
+  DR3=350
L3  N009  N008  {L3}
R50  N009  N008  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N010  {L1}
R51  4  N010  {Rs1}
L5  N010  N009  {L2}
R52  N010  N009  {Rs2}
L4  N019  N018  {L3}
R53  N019  N018  {Rs3}
C2  N501  N017  {C1}
R501  3  N501  {R2}
L8  3  N020  {L1}
R54  3  N020  {Rs1}
L6  N020  N019  {L2}
R55  N020  N019  {Rs2}
L2  N018  N017  {L4}
R56  N018  N017  {Rs4}
L1  N008  N001  {L4}
R57  N008  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N011  2  {Rdc}  
L9  N003  N002  {dL3}  
C3  N003  N012  {dC3}
R600  N003  N012  1000g    
L10  N004  N003  {dL3}  
L11  N011  N012  {dL3}  
L12  N012  N013  {dL3}  
C4  N004  N013  {dC3}  
L15  N005  N004  {dL3}  
L16  N013  N014  {dL3}  
C5  N005  N014  {dC3}  
L17  N006  N005  {dL3}  
L18  N014  N015  {dL3}  
C6  N006  N015  {dC3}  
L19  N007  N006  {dL3}  
L20  N015  N016  {dL3}  
R1  N001  N002  {dR3}  
R2  N017  N011  {dR3}  
C7  N007  N016  {dC3}  
L21  N001  N007  {dL3}  
L22  N016  N017  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
K14  L19  L20  1    
K15  L21  L22  1    
.ends 9260_744225_40u
******
.subckt 9260_744226_10u 1 2 3 4 PARAMS:
+  L1=4.42u
+  L2=1.76u
+  L3=5.05u
+  L4=1.01u
+  C1=0.287p
+  RS1=561.68
+  RS2=1407.84
+  RS3=657.84
+  RS4=540.95
+  R2=43
+  Rdc=0.064
+  dL3=3.1n
+  dC3=2.1pF
+  DR3=400
L3  N007  N006  {L3}
R50  N007  N006  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N008  {L1}
R51  4  N008  {Rs1}
L5  N008  N007  {L2}
R52  N008  N007  {Rs2}
L4  N015  N014  {L3}
R53  N015  N014  {Rs3}
C2  N501  N013  {C1}
R501  3  N501  {R2}
L8  3  N016  {L1}
R54  3  N016  {Rs1}
L6  N016  N015  {L2}
R55  N016  N015  {Rs2}
L2  N014  N013  {L4}
R56  N014  N013  {Rs4}
L1  N006  N001  {L4}
R57  N006  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N009  2  {Rdc}  
L9  N003  N002  {dL3}  
C3  N003  N010  {dC3}
R900  N003  N010  1000g      
L10  N004  N003  {dL3}  
L11  N009  N010  {dL3}  
L12  N010  N011  {dL3}  
C4  N004  N011  {dC3}  
L15  N005  N004  {dL3}  
L16  N011  N012  {dL3}  
C5  N005  N012  {dC3}  
L17  N001  N005  {dL3}  
L18  N012  N013  {dL3}  
R1  N001  N002  {dR3}  
R2  N013  N009  {dR3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1          
.ends 9260_744226_10u
******
.subckt 9260_744227_51u 1 2 3 4 PARAMS:
+  L1=47.41u
+  L2=2.86u
+  L3=2.85u
+  L4=2.77u
+  C1=2.126p
+  RS1=5559.15
+  RS2=5675.07
+  RS3=5504.73
+  RS4=5293.47
+  R2=1.66
+  L5=42n
+  R5=850
+  C5=0.490p
+  Rdc=0.113
+  dL3=2.95n
+  dC3=3.3pF
+  DR3=275
L3  N010  N009  {L3}
R50  N010  N009  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N011  {L1}
R51  4  N011  {Rs1}
L5  N011  N010  {L2}
R52  N011  N010  {Rs2}
L4  N021  N020  {L3}
R53  N021  N020  {Rs3}
C2  N501  N019  {C1}
R501  3  N501  {R2}
L8  3  N022  {L1}
R54  3  N022  {Rs1}
L6  N022  N021  {L2}
R55  N022  N021  {Rs2}
L2  N020  N019  {L4}
R56  N020  N019  {Rs4}
L1  N009  N001  {L4}
R57  N009  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N012  2  {Rdc}  
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N019  N018  {L5}
R59  N019  N018  {R5}
C51  N019  N018  {C5}
L9  N004  N002  {dL3}  
C3  N004  N013  {dC3}
R900  N004  N013  1000g    
L10  N005  N004  {dL3}  
L11  N012  N013  {dL3}  
L12  N013  N014  {dL3}  
C4  N005  N014  {dC3}  
L15  N006  N005  {dL3}  
L16  N014  N015  {dL3}  
C5  N006  N015  {dC3}  
L17  N007  N006  {dL3}  
L18  N015  N016  {dL3}  
R1  N003  N002  {dR3}  
R2  N018  N012  {dR3}  
C6  N007  N016  {dC3}  
L19  N008  N007  {dL3}  
L20  N016  N017  {dL3}  
C7  N008  N017  {dC3}  
L21  N003  N008  {dL3}  
L22  N017  N018  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L13  L14  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
K14  L19  L20  1    
K15  L21  L22  1    
.ends 9260_744227_51u
******
.subckt 9260_744228_25u 1 2 3 4 PARAMS:
+  L1=18.58u
+  L2=13.91u
+  L3=6.75u
+  L4=3.32u
+  C1=0.439p
+  RS1=410.16
+  RS2=2686.01
+  RS3=695.54
+  RS4=3420.44
+  R2=31.34
+  Rdc=0.096
+  dL3=3.6n
+  dC3=3.25pF
+  DR3=325
L3  N007  N006  {L3}
R50  N007  N006  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N008  {L1}
R51  4  N008  {Rs1}
L5  N008  N007  {L2}
R52  N008  N007  {Rs2}
L4  N015  N014  {L3}
R53  N015  N014  {Rs3}
C2  N501  N013  {C1}
R501  3  N501  {R2}
L8  3  N016  {L1}
R54  3  N016  {Rs1}
L6  N016  N015  {L2}
R55  N016  N015  {Rs2}
L2  N014  N013  {L4}
R56  N014  N013  {Rs4}
L1  N006  N001  {L4}
R57  N006  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N009  2  {Rdc}  
L9  N003  N002  {dL3}  
C3  N003  N010  {dC3}
R900  N003  N010  1000g    
L10  N004  N003  {dL3}  
L11  N009  N010  {dL3}  
L12  N010  N011  {dL3}  
C4  N004  N011  {dC3}  
L15  N005  N004  {dL3}  
L16  N011  N012  {dL3}  
C5  N005  N012  {dC3}  
L17  N001  N005  {dL3}  
L18  N012  N013  {dL3}  
R1  N001  N002  {dR3}  
R2  N013  N009  {dR3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1              
.ends 9260_744228_25u
******
.subckt 9260_744229_6.5m 1 2 3 4 PARAMS:
+  L1=1.2m
+  L2=2.06m
+  L3=3.41m
+  L4=666.81u
+  C1=3.97p
+  RS1=12435.13
+  RS2=10260.61
+  RS3=14669.58
+  RS4=14575.64
+  R2=128.68
+  L5=120n
+  R5=1100
+  C5=2p
+  Rdc=0.77
+  dL3=4n
+  dC3=2.7pF
+  DR3=195
+  L6=9n
+  R6=700
+  C6=1p
L3  N019  N018  {L3}
R50  N019  N018  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N020  {L1}
R51  4  N020  {Rs1}
L5  N020  N019  {L2}
R52  N020  N019  {Rs2}
L4  N039  N038  {L3}
R53  N039  N038  {Rs3}
C2  N501  N037  {C1}
R501  3  N501  {R2}
L8  3  N040  {L1}
R54  3  N040  {Rs1}
L6  N040  N039  {L2}
R55  N040  N039  {Rs2}
L2  N038  N037  {L4}
R56  N038  N037  {Rs4}
L1  N018  N001  {L4}
R57  N018  N001  {Rs4}
R17  N002  1  {Rdc}  
R18  N021  2  {Rdc}  
L13  N001  N017  {L5}
R58  N001  N017  {R5}
C50  N001  N017  {C5}
L14  N037  N036  {L5}
R59  N037  N036  {R5}
C51  N037  N036  {C5}
L9  N004  N002  {dL3}  
C3  N004  N022  {dC3}
R900  N004  N022  1000g    
L10  N005  N004  {dL3}  
L11  N021  N022  {dL3}  
L12  N022  N023  {dL3}  
C4  N005  N023  {dC3}  
L15  N006  N005  {dL3}  
L16  N023  N024  {dL3}  
C5  N006  N024  {dC3}  
L17  N007  N006  {dL3}  
L18  N024  N025  {dL3}  
R1  N003  N002  {dR3}  
R2  N035  N021  {dR3}  
L19  N017  N003  {L6}
R60  N017  N003  {R6}
C52  N017  N003  {C6}
L20  N036  N035  {L6}
R61  N036  N035  {R6}
C61  N036  N035  {C6}
C6  N007  N025  {dC3}  
L21  N008  N007  {dL3}  
L22  N025  N026  {dL3}  
C7  N008  N026  {dC3}  
L23  N009  N008  {dL3}  
L24  N026  N027  {dL3}  
C8  N009  N027  {dC3}  
L25  N010  N009  {dL3}  
L26  N027  N028  {dL3}  
C9  N010  N028  {dC3}  
L27  N011  N010  {dL3}  
L28  N028  N029  {dL3}  
C10  N011  N029  {dC3}  
L29  N012  N011  {dL3}  
L30  N029  N030  {dL3}  
C11  N012  N030  {dC3}  
L31  N013  N012  {dL3}  
L32  N030  N031  {dL3}  
C12  N013  N031  {dC3}  
L33  N014  N013  {dL3}  
L34  N031  N032  {dL3}  
C13  N014  N032  {dC3}  
L35  N015  N014  {dL3}  
L36  N032  N033  {dL3}  
C14  N015  N033  {dC3}  
L37  N016  N015  {dL3}  
L38  N033  N034  {dL3}  
C15  N016  N034  {dC3}  
L39  N003  N016  {dL3}  
L40  N034  N035  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L13  L14  1    
K10  L9  L11  1    
K11  L10  L12  1    
K12  L15  L16  1    
K13  L17  L18  1    
K6  L19  L20  1    
K14  L21  L22  1    
K15  L23  L24  1    
K16  L25  L26  1    
K17  L27  L28  1    
K18  L29  L30  1    
K19  L31  L32  1    
K20  L33  L34  1    
K21  L35  L36  1    
K22  L37  L38  1    
K23  L39  L40  1    
.ends 9260_744229_6.5m
******

.subckt 9260_744220103_10m 1 2 3 4 PARAMS:
+  L1=11.5m
+  L2=0.1u
+  L3=0.1u
+  L4=0.1u
+  C1=12.9p
+  RS1=137498.68
+  RS2=131011.22
+  RS3=30411.71
+  RS4=30168.52
+  R2=78150.5
+  dL3=0.020uH
+  dC3=10pF
+  DR3=100
+  DR4=20000
+  Rdc=0.139
+  ck=1pF
L3  N004  N003  {L3}
R50  N004  N003  {Rs3}
C1  4  N002  {C1}
R500  4  N002  {R2}
L7  4  N005  {L1}
R51  4  N005  {Rs1}
L5  N005  N004  {L2}
R52  N005  N004  {Rs2}
L4  N011  N010  {L3}
R53  N011  N010  {Rs3}
C2  N501  N009  {C1}
R501  3  N501  {R2}
L8  3  N012  {L1}
R54  3  N012  {Rs1}
L6  N012  N011  {L2}
R55  N012  N011  {Rs2}
L2  N010  N009  {L4}
R56  N010  N009  {Rs4}
L1  N003  N002  {L4}
R57  N003  N002  {Rs4}
R17  N001  1  {Rdc}  
R18  N007  2  {Rdc}  
R14  N002  N001  {dR4}  
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N006  N001  {dL3}  
L10  N007  N008  {dL3}  
C4  N006  N008  {ck}
R900  N006  N008  1000g    
C5  N503  N007  {dC3}
R503  N009  N503  {dR3}
R15  N009  N007  {dR4}  
L11  N002  N006  {dL3}  
L12  N008  N009  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L9  L10  L11  L12  1
.ends 9260_744220103_10m
******
.subckt 9260_744220203_20m 1 2 3 4 PARAMS:
+  L1=24.5m
+  L2=0.1u
+  L3=0.1u
+  L4=0.1u
+  C1=15.0p
+  RS1=307498.68
+  RS2=301011.22
+  RS3=300411.71
+  RS4=300168.52
+  R2=138150.5
+  dL3=0.0320uH
+  dC3=10pF
+  DR3=1
+  DR4=100meg
+  Rdc=0.139
+  ck=1pF
L3  N004  N003  {L3}
R50  N004  N003  {Rs3}
C1  4  N002  {C1}
R500  4  N002  {R2}
L7  4  N005  {L1}
R51  4  N005  {Rs1}
L5  N005  N004  {L2}
R52  N005  N004  {Rs2}
L4  N011  N010  {L3}
R53  N011  N010  {Rs3}
C2  N501  N009  {C1}
R501  3  N501  {R2}
L8  3  N012  {L1}
R54  3  N012  {Rs1}
L6  N012  N011  {L2}
R55  N012  N011  {Rs2}
L2  N010  N009  {L4}
R56  N010  N009  {Rs4}
L1  N003  N002  {L4}
R57  N003  N002  {Rs4}
R17  N001  1  {Rdc}  
R18  N007  2  {Rdc}  
R14  N002  N001  {dR4}  
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N006  N001  {dL3}  
L10  N007  N008  {dL3}  
C4  N006  N008  {ck}
R900  N006  N008  1000g    
C5  N503  N007  {dC3}
R503  N009  N503  {dR3}
R15  N009  N007  {dR4}  
L11  N002  N006  {dL3}  
L12  N008  N009  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L9  L10  L11  L12  1
.ends 9260_744220203_20m



.subckt 9260_744225S_40u 1 2 3 4 PARAMS:
+  dL3=133.89nH
+  dC3=0.761pF
+  DR3=151.37
+  DR4=8295.7
+  Rdc=0.196
+  ck=1.1pF
+  L5=127n
+  R5=1800
+  C5=0.575p
+  L1=18.83u
+  L2=3.47u
+  L3=18.77u
+  L4=2.83u
+  C1=0.2808p
+  RS1=2685
+  RS2=3490
+  RS3=2400
+  RS4=3490
+  R2=16
L3  N005  N004  {L3}
R50  N005  N004  {Rs3}
C1  N500  N003  {C1}
R500  4  N500  {R2}
L7  4  N006  {L1}
R51  4  N006  {Rs1}
L5  N006  N005  {L2}
R52  N006  N005  {Rs2}
L4  N013  N012  {L3}
R53  N013  N012  {Rs3}
C2  N501  N011  {C1}
R501  3  N501  {R2}
L8  3  N014  {L1}
R54  3  N014  {Rs1}
L6  N014  N013  {L2}
R55  N014  N013  {Rs2}
L2  N012  N011  {L4}
R56  N012  N011  {Rs4}
L1  N004  N003  {L4}
R57  N004  N003  {Rs4}
R17  N001  1  {Rdc}  
R18  N008  2  {Rdc}  
R14  N002  N001  {dR4}  
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N007  N001  {dL3}  
L10  N008  N009  {dL3}  
C4  N007  N009  {ck}
R900  N007  N009  1000g    
C5  N503  N008  {dC3}
R503  N010  N503  {dR3}
R15  N010  N008  {dR4}  
L11  N002  N007  {dL3}  
L12  N009  N010  {dL3}  
L13  N003  N002  {L5}
R58  N003  N002  {R5}
C50  N003  N002  {C5}
L14  N011  N010  {L5}
R59  N011  N010  {R5}
C51  N011  N010  {C5}
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L9  L10  L11  L12  1
K6  L13  L14  1    
.ends 9260_744225S_40u
******
.subckt 9260_744226S_10u 1 2 3 4 PARAMS:
+  L1=3.27u
+  L2=1.12u
+  L3=5.19u
+  L4=1.02u
+  C1=0.223p
+  RS1=497.8
+  RS2=909.05
+  RS3=643.4
+  RS4=681.85
+  R2=39.85
+  dL3=47.66nH
+  dC3=0.347pF
+  DR3=234.83
+  DR4=3590.58
+  Rdc=0.0615
+  ck=0.9pF
L3  N004  N003  {L3}
R50  N004  N003  {Rs3}
C1  N500  N002  {C1}
R500  4  N500  {R2}
L7  4  N005  {L1}
R51  4  N005  {Rs1}
L5  N005  N004  {L2}
R52  N005  N004  {Rs2}
L4  N011  N010  {L3}
R53  N011  N010  {Rs3}
C2  N501  N009  {C1}
R501  3  N501  {R2}
L8  3  N012  {L1}
R54  3  N012  {Rs1}
L6  N012  N011  {L2}
R55  N012  N011  {Rs2}
L2  N010  N009  {L4}
R56  N010  N009  {Rs4}
L1  N003  N002  {L4}
R57  N003  N002  {Rs4}
R17  N001  1  {Rdc}  
R18  N007  2  {Rdc}  
R14  N002  N001  {dR4}  
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N006  N001  {dL3}  
L10  N007  N008  {dL3}  
C4  N006  N008  {ck}
R900  N006  N008  1000g    
C5  N503  N007  {dC3}
R503  N009  N503  {dR3}
R15  N009  N007  {dR4}  
L11  N002  N006  {dL3}  
L12  N008  N009  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L9  L10  L11  L12  1                    
.ends 9260_744226S_10u
******
.subckt 9260_744227S_51u 1 2 3 4 PARAMS:
+  L1=24.45u
+  L2=11.18u
+  L3=6.45u
+  L4=5.02u
+  C1=0.4027p
+  RS1=3561.59
+  RS2=3846.11
+  RS3=2081.67
+  RS4=1967.35
+  R2=86.7
+  dL3=210.35nH
+  dC3=0.33028pF
+  DR3=40
+  DR4=6357.71
+  Rdc=0.209
+  ck=1.67pF
L3  N004  N003  {L3}
R50  N004  N003  {Rs3}
C1  N500  N002  {C1}
R500  4  N500  {R2}
L7  4  N005  {L1}
R51  4  N005  {Rs1}
L5  N005  N004  {L2}
R52  N005  N004  {Rs2}
L4  N011  N010  {L3}
R53  N011  N010  {Rs3}
C2  N501  N009  {C1}
R501  3  N501  {R2}
L8  3  N012  {L1}
R54  3  N012  {Rs1}
L6  N012  N011  {L2}
R55  N012  N011  {Rs2}
L2  N010  N009  {L4}
R56  N010  N009  {Rs4}
L1  N003  N002  {L4}
R57  N003  N002  {Rs4}
R17  N001  1  {Rdc}  
R18  N007  2  {Rdc}  
R14  N002  N001  {dR4}  
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N006  N001  {dL3}  
L10  N007  N008  {dL3}  
C4  N006  N008  {ck}
R900  N006  N008  1000g    
C5  N503  N007  {dC3}
R503  N009  N503  {dR3}
R15  N009  N007  {dR4}  
L11  N002  N006  {dL3}  
L12  N008  N009  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L9  L10  L11  L12  1
.ends 9260_744227S_51u
******
.subckt 9260_744228S_25u 1 2 3 4 PARAMS:
+  L1=14.28u
+  L2=13.1u
+  L3=2.1u
+  L4=0.1u
+  C1=0.281p
+  RS1=13498.68
+  RS2=1011.22
+  RS3=6411.71
+  RS4=6168.52
+  R2=6150.5
+  dL3=99.87nH
+  dC3=0.555pF
+  DR3=123.17
+  DR4=5477.23
+  Rdc=0.139
+  ck=1pF
L3  N004  N003  {L3}
R50  N004  N003  {Rs3}
C1  4  N002  {C1}
R500  4  N002  {R2}
L7  4  N005  {L1}
R51  4  N005  {Rs1}
L5  N005  N004  {L2}
R52  N005  N004  {Rs2}
L4  N011  N010  {L3}
R53  N011  N010  {Rs3}
C2  N501  N009  {C1}
R501  3  N501  {R2}
L8  3  N012  {L1}
R54  3  N012  {Rs1}
L6  N012  N011  {L2}
R55  N012  N011  {Rs2}
L2  N010  N009  {L4}
R56  N010  N009  {Rs4}
L1  N003  N002  {L4}
R57  N003  N002  {Rs4}
R17  N001  1  {Rdc}  
R18  N007  2  {Rdc}  
R14  N002  N001  {dR4}  
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N006  N001  {dL3}  
L10  N007  N008  {dL3}  
C4  N006  N008  {ck}
R900  N006  N008  1000g    
C5  N503  N007  {dC3}
R503  N009  N503  {dR3}
R15  N009  N007  {dR4}  
L11  N002  N006  {dL3}  
L12  N008  N009  {dL3}  
K2  L3  L4  1    
K3  L5  L6  1    
K4  L7  L8  1    
K1  L1  L2  1    
K5  L9  L10  L11  L12  1
.ends 9260_744228S_25u
******